US08026244B2
(a) 6-Amino-1-(pyridin-4-ylmethyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
The title compound was prepared in accordance with the general method described in Example 11(b), using N-(pyridin-4-ylmethyl)thiourea (1.0 g, 5.98 mmol) and ethyl cyanoacetate (0.64 mL, 5.98), with the exception that a 4 h reaction time was used, and the solution was neutralized with acetic acid. The crude title compound was obtained (1.07 g, 76%) as a solid.

reactant | N-(pyridin-4-ylmethyl)thiourea | 5.98 mmol, 1.0 g | N1=CC=C(C=C1)CNC(=S)N | C7H9N3S
reactant | ethyl cyanoacetate | 0.64 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Amino-1-(pyridin-4-ylmethyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | NC1=CC(NC(N1CC1=CC=NC=C1)=S)=O | C10H10N4OS
